US05130312
To a stirred and cooled (<10° C.) solution of 150 parts of pyridinium dichromate in 1300 parts of dichloromethane was added dropwise a solution of 50 parts of (1,1-dimethylethyl) (4-hydroxybutyl)methylcarbamate in 91 parts of dichloromethane. Upon complete addition, stirring was continued for 3 hours in the presence of 112 parts of molecular sieves of 4A at room temperature. The reaction mixture was filtered over magnesium sulfate, washed with 1,1'-oxydisethane and the filtreate was evaporated. The residue was purified by column chromatography over silica gel using dichloromethane as eluent. The pure fractions were collected and the eluent was evaporated. The residue was taken up in methylbenzene and the whole was evaporated again, yielding 3.5 parts (6.9%) of (1,1-dimethylethyl) (methyl(4-oxobutyl)carbamate as a residue (interm. 7).

reactant | pyridinium dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | (1,1-dimethylethyl) (4-hydroxybutyl)methylcarbamate | OCCCCN(C(OC(C)(C)C)=O)C | C10H21NO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl(4-oxobutyl)carbamate | COC(NCCCC=O)=O | C6H11NO3
